* C:\users\icute\pwm_rc_series.asc
V1 in 0 SINE(1.65 1.65 90)
B1 out 0 V=3.3*((time/period-int(time/period))<V(in)/3.3)
XU1 sine N001 V+ 0 Vf OP292
V2 V+ 0 12
R2 Vf N001 2k
R3 N001 0 1k
R4 Vf 0 100k
XU2 N003 N002 V+ 0 N002 OP292
R5 N003 out 1k
R6 sine N002 1k
C2 N003 0 100nF
C1 0 sine 100nF
.tran 0 75ms 25ms 100ns
.param period=0.027ms
.lib ADI1.lib
.backanno
.end
